US04562186
3-Benzoyl-5-phenylthiomethyl-1,2,4-oxadiazole
A solution of 11.4 ml of triethylamine in 30 ml Et2O was added dropwise to a solution consisting of 9.0 g of 3-benzoyl-5-chloromethyl-1,2,4-oxadiazole, 4.2 ml of thiophenol, 20 ml of acetone and 80 ml of Et2O at room temperature. The resulting mixture was stirred for one hour. The reaction mixture was diluted with Et2O, washed with 5% HCl (2×), water (2×) and brine, and dried over MgSO4. Concentration gave 11.5 g of an oil. Purification by high pressure liquid chromatography with 70% CH2Cl2 /hexane as an eluent yielded 10.3 g (84%) of an oil.

reactant | triethylamine | 11.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-benzoyl-5-chloromethyl-1,2,4-oxadiazole | 9.0 g | C(C1=CC=CC=C1)(=O)C1=NOC(=N1)CCl | C10H7ClN2O2
reactant | thiophenol | 4.2 ml | C1(=CC=CC=C1)S | C6H6S
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | Et2O | 30 ml | CCOCC | C4H10O
solvent | Et2O | 80 ml | CCOCC | C4H10O
product | 3-Benzoyl-5-phenylthiomethyl-1,2,4-oxadiazole | 11.5 g | C(C1=CC=CC=C1)(=O)C1=NOC(=N1)CSC1=CC=CC=C1 | C16H12N2O2S
